US04966905
5-[2-(Benzo[b]thien-2-yl)ethenyl]-2,2-dimethyl-3(2H)-furanone
To a solution of 2-benzothiophenecarboxaldehyde (1.5 g, 9.2 mM) and 2,2,5-trimethyl-3(2H)-furanone (1.6 g, 9.2 mM) in ethanol (100 mL), was added 1N aqueous sodium hydroxide (1.2 mL, 1.2 mM). After the reaction solution was stirred at room temperature for one day, saturated aqueous sodium chloride (400 mL) was added. The aqueous layer was extracted with diethyl ether (3×100 mL). The combined ethereal extracts were washed with saturated aqueous sodium chloride (50 mL), dried over MgSO4, filtered and concentrated to give a brown solid. The residue was purified by chromatography (silica gel, hexane-ethyl acetate) to afford a yellow solid (2.2 g, 58% yield), m.p. 103.5°-104° C.

reactant | 2-benzothiophenecarboxaldehyde | 9.2 mM, 1.5 g | S1C(=CC2=C1C=CC=C2)C=O | C9H6OS
reactant | 2,2,5-trimethyl-3(2H)-furanone | 9.2 mM, 1.6 g | CC1(OC(=CC1=O)C)C | C7H10O2
reactant | sodium hydroxide | 1N, 1.2 mL | [OH-].[Na+]
reactant | sodium chloride | 400 mL | [Cl-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-[2-(Benzo[b]thien-2-yl)ethenyl]-2,2-dimethyl-3(2H)-furanone | 2.2 g, 58% yield | S1C2=C(C=C1C=CC1=CC(C(O1)(C)C)=O)C=CC=C2 | C16H14O2S
